US04477464
An ice cold mixture of 84 mg of 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one, 15 mg of powdered potassium hydroxide and 6.5 mg of tetrabutylammonium bromide in 3 ml of dry tetrahydrofuran is treated with 32 mg of methyl bromoacetate. The reaction is allowed to stir for 3 hr at room temperature. At this time, the solution is filtered and concentrated and the residue dissolved in 20 ml of ethyl acetate. This is washed with 5 ml of water and dried over potassium carbonate. Concentration under reduced pressure affords 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-1-carbomethoxymethyl-5-methyl-1,3,4,5-tetrahydro-1,5-benzo diazepin-2-one.

reactant | 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-5-methyl-1,3,4,5-tetrahydro-1,5-benzodiazepin-2-one | 84 mg | C(=O)(OCC)C(CCC1=CC=CC=C1)NC1CN(C2=C(NC1=O)C=CC=C2)C | C22H27N3O3
reactant | potassium hydroxide | 15 mg | [OH-].[K+]
reactant | methyl bromoacetate | 32 mg | BrCC(=O)OC | C3H5BrO2
catalyst | tetrabutylammonium bromide | 6.5 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-[N-(1-carboethoxy-3-phenylpropyl)amino]-1-carbomethoxymethyl-5-methyl-1,3,4,5-tetrahydro-1,5-benzo diazepin-2-one | C(=O)(OCC)C(CCC1=CC=CC=C1)NC1CN(C2=C(N(C1=O)CC(=O)OC)C=CC=C2)C | C25H31N3O5
